US04720500
The procedure is analogous to that described in Example 11, but starting with 3-bromobenzoic acid (1.6 g), N,N'-carbonyldiimidazole (1.3 g) and 2-amino(2-methoxyphenyl)-1,8-naphthyridine (1.3 g). The product obtained by precipitation in water (1.5 g) is dissolved in boiling methanol (75 cc). After cooling for 2 hours at 4° C., the crystallized solid is separated by filtration, washed with methanol (3×3 cc) and dried at 35° C. under reduced pressure (0.07 kPa). N-[7-(2-Methoxyphenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide (0.6 g), m.p. 110° C., is obtained.

reactant | 3-bromobenzoic acid | 1.6 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 2-amino(2-methoxyphenyl)-1,8-naphthyridine | 1.3 g | NC1=NC2=NC=CC=C2C=C1C1=C(C=CC=C1)OC | C15H13N3O
reactant | methanol | 75 cc | CO | CH4O
solvent | water | 1.5 g | O | H2O
product | N-[7-(2-Methoxyphenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide | 0.6 g | COC1=C(C=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)Br)=O | C22H16BrN3O2
